US04855086
5-thienyl-4-pentyn-1-ol was prepared from 4-pentyn-1-ol and 2-iodothiophene as in Example 15 and converted into 5-thienyl-4-pentyn-1-al as in Example 9.

reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
reactant | 2-iodothiophene | IC=1SC=CC1 | C4H3IS
reactant | 5-thienyl-4-pentyn-1-al | S1C(=CC=C1)C#CCCC=O | C9H8OS
product | 5-thienyl-4-pentyn-1-ol | S1C(=CC=C1)C#CCCCO | C9H10OS
